**********************************************************
*      MyLogic V6.1 SPICE netlist generator
*      Cell Name :: nand
*      Flatten Extraction for Berkely Spice 3
*      Generated Date :: 2022/11/29 21:54.52
**********************************************************
*.GLOBAL A B Y
*.GLOBAL GND VDD
**********************************************************
MT_I0 VDD B Y VDD PMOS L=2.8U W=2.4U
MT_I1 VDD A Y VDD PMOS L=2.8U W=2.4U
MT_I2 Y A I2_NNS GND NMOS L=2.8U W=1.2U
MT_I3 I2_NNS B GND GND NMOS L=2.8U W=1.2U
**********************************************************
VDD VDD 0 DC 5
VSS GND 0 DC 0
**********************************************************
